US08669234B2
2-(5-{7-[2-(1-Boc-pyrrolidin-2-yl}-3H-imidazol-4-yl]-9-oxo-9H-fluoren-2-yl]-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester:
Followed the procedure used to prepare compound 2-(5-{7-[2-(1-Boc-pyrrolidin-2-yl)-3H-imidazol-4-yl]-9,10-dihydro-phenanthren-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester, except that 2,7-bis-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-fluoren-9-one was used instead of 4,4,5,5-tetramethyl-2-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-9,10-dihydro-phenanthren-2-yl]-[1,3,2]dioxaborolane. m/z 650.9 (M+H)+.

reactant | 2-(5-{7-[2-(1-Boc-pyrrolidin-2-yl)-3H-imidazol-4-yl]-9,10-dihydro-phenanthren-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2CCC3=CC(=CC=C3C2C=C1)C=1NC(=NC1)C1N(CCC1)C(=O)OC(C)(C)C | C38H46N6O4
reactant | 2,7-bis-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-fluoren-9-one | CC1(OB(OC1(C)C)C1=CC=2C(C3=CC(=CC=C3C2C=C1)B1OC(C(O1)(C)C)(C)C)=O)C | C25H30B2O5
product | 2-(5-{7-[2-(1-Boc-pyrrolidin-2-yl}-3H-imidazol-4-yl]-9-oxo-9H-fluoren-2-yl]-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C=1NC(=NC1)C1N(CCC1)C(=O)OC(C)(C)C)=O | C37H42N6O5
